US07582803B2
Ethyl 3-(4-fluoro-phenyl)-3-(4-hydroxy-phenyl)-acrylate (M2.1).
A solution of lithium hexamethyldisilazide (23.1 mL, 1 M in THF) was added to a stirred solution of ethyl (trimethylsilyl)acetate (2.53 mL, 13.9 mmol) in THF (15 mL) in 10 minutes at −78° C. The reaction mixture was further stirred at this temperature for 20 minutes. A solution of (4-fluoro-phenyl)-(4-hydroxy-phenyl)-methanone (2 g, 9.2 mmol) in THF (30 mL) was slowly added to the reaction mixture. The reaction mixture was brought to 0° C. over 5 hours. The reaction mixture was quenched with saturated ammonium chloride solution, extracted into EtOAc and washed with dilute ammonium chloride solution. The organic layer was dried over magnesium sulfate. The solvent was removed under vacuum, and the resulting product was flash chromatographed on silica gel, giving M1.1 as an oil.

reactant | lithium hexamethyldisilazide | 1 M, 23.1 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ethyl (trimethylsilyl)acetate | 13.9 mmol, 2.53 mL | C[Si](C)(C)CC(=O)OCC | C7H16O2Si
reactant | (4-fluoro-phenyl)-(4-hydroxy-phenyl)-methanone | 9.2 mmol, 2 g | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O | C13H9FO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(4-fluoro-phenyl)-3-(4-hydroxy-phenyl)-acrylate | FC1=CC=C(C=C1)C(=CC(=O)OCC)C1=CC=C(C=C1)O | C17H15FO3
